US08293897B2
Step 3) N-(3-fluoro-4-(7-(3-(1-hydroxycyclopropyl)propoxy)quinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a mixture of 3-(1-hydroxycyclopropyl)propyl methanesulfonate (240 mg, 1.2 mmol) and N-(4-(7-hydroxyquinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide (300 mg, 0.62 mmol) in 5 mL of N,N-dimethylacetamide was added cesium carbonate (470 mg, 2.4 mmol, Aladdin). After stirring at rt for 12 hrs, the reaction mixture was warmed to 40° C. and stirred for additional 6 hrs. The reaction mixture was diluted with 20 mL of water and extracted with ethyl acetate (40 mL×3). The combined organic phases were dried over Na2SO4, concentrated in vacuo and chromatographed with a silica gel column (5:1 (v/v) EtOAc/n-Hexane) to provide the title compound as a white solid (68 mg, 19%).

reactant | 3-(1-hydroxycyclopropyl)propyl methanesulfonate | 1.2 mmol, 240 mg | CS(=O)(=O)OCCCC1(CC1)O | C7H14O4S
reactant | N-(4-(7-hydroxyquinolin-4-yloxy)-3-fluorophenyl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 0.62 mmol, 300 mg | OC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)F | C27H21FN4O4
reactant | cesium carbonate | 2.4 mmol, 470 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 20 mL | O | H2O
product | N-(3-fluoro-4-(7-(3-(1-hydroxycyclopropyl)propoxy)quinolin-4-yloxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 68 mg, 19% | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OCCCC1(CC1)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C33H31FN4O5
